US07081454B2
5-Imidazol-1-yl-3-methyl-benzene-1,2-diamine:
To 4-imidazol-1-yl-2-methyl-6-nitro-phenylamine (350 mg, 1.61 mmol) and 10% Palladium on carbon (40 mg) were added degassed methanol (5 mL) and TFA (5 drops). The reaction mixture was flushed and evacuated with hydrogen/vacuum line, stirred at room temperature for 14 h under hydrogen atmosphere (hydrogen balloon). The dark reaction mixture was filtered through a pad of celite and rinsed with methanol. Concentration of the filtrate gave the residue, which was diluted with water, extracted with ethyl acetate. The combined organic layers were washed with saturated NaHCO3, brine, dried over Na2SO4. Concentration to dryness gave the title compound (275 mg, 91%) as a solid. 1H NMR (300 MHz, CD3OD) δ 7.87 (1H, s), 7.34 (1H, s), 7.05 (1H, s), 6.72 (1H, d, J=2.4 Hz), 6.65 (1H, d, J=2.4 Hz) 2.21 (3H, s). LCMS (M+H)+ m/z 189 (t=0.23 min.).

reactant | 4-imidazol-1-yl-2-methyl-6-nitro-phenylamine | 1.61 mmol, 350 mg | N1(C=NC=C1)C1=CC(=C(C(=C1)[N+](=O)[O-])N)C | C10H10N4O2
catalyst | Palladium on carbon | 40 mg | [Pd] | Pd
solvent | water | O | H2O
product | 5-Imidazol-1-yl-3-methyl-benzene-1,2-diamine | 275 mg, 91% | N1(C=NC=C1)C1=CC(=C(C(=C1)N)N)C | C10H12N4
